US06693153B2
3,3,5,5-tetramethylcyclohexylfulvene.
Hexane washed sodium spheres (2.40 g, 104 mmol) were slowly added to 100 mL absolute ethanol. The sodium had fully reacted before cyclopentadiene (6.0 mL, 72.6 mmol) and 3,3,5,5-tetramethylcyclohexanone (10.0 mL, 57.1 mmol) were added. After 30 hours, the reaction was poured into 200 mL water and 100 mL diethyl ether were added. The organic layer was isolated and the aqueous layer was extracted with diethyl ether (3×50 mL). The combined organic layers were extracted with water (3×50 mL), dried over MgSO4, filtered, and rotavapped to produce the product in quantitative yield as a yellow oil. MS (GC-MS) m/z 202.3 (M+). 1H NMR (CDCl3): δ 0.97 (s, 12H, CH3), 1.04 (s, 2H, CH2), 2.39 (s, 4H, CH2), 6.52, 6.52 (m, 4H, fulvene-H). 1-(cyclopentadienyl)-3,3,5,5-tetramethylcyclohexane. A 500 mL flask was charged with LiAlH4 (2.50 g, 65.9 mmol) and 200 mL tetrahydrofuran. An addition funnel containing 3,3,5,5-tetramethylcyclohexylfulvene (11.89 g, 58.8 mmol) dissolved in 50 mL tetrahydrofuran was attached. The vessel was cooled to 0° C. before dropwise addition over 25 minutes. After 17 hours of stirring at room temperature, the vessel was cooled to 0° C. and 20 mL of water were added dropwise. Then, aqueous NH4Cl (100 mL) and water (200 mL) were added before the organic layer was isolated. 15 mL of concentrated aqueous HCl were added to the aqueous layer and it was extracted with diethyl ether (3×50 mL). The combined organic layers were dried over MgSO4, filtered, and rotavapped to provide 11.87 grams of product (98.8%) as a light orange oil. MS (GC-MS) m/z 204.3 (M+). 3-(3,3,5,5-tetramethylcyclohexyl)-6,6-dimethylfulvene. A 500 mL flask was charged with 1-(cyclopentadienyl)-3,3,5,5-tetramethylcyclohexane (11.87 g, 58.1 mmol), 100 mL methanol, acetone (30 mL, 430 mmol), and pyrrolidine (1.0 mL, 12 mmol). After stirring for 52 hours, 5 mL of acetic acid were added, along with 200 mL water and 100 mL diethyl ether. The organic layer was isolated and the aqueous layer was extracted with diethyl ether (3×50 mL). The combined organic layers were extracted with H2O (3×30 mL) and 10% aqueous NaOH (3×30 mL). The organic layer was dried over MgSO4, filtered, rotavapped, dried in vacuo, and pushed through a short column of alumina to provide the product in quantitative yield as a yellow oil. MS (GC-MS) m/z 244.4 (M+).

reactant | 3-(3,3,5,5-tetramethylcyclohexyl)-6,6-dimethylfulvene | CC1(CC(CC(C1)(C)C)C=1C=CC(C1)=C(C)C)C | C18H28
reactant | 1-(cyclopentadienyl)-3,3,5,5-tetramethylcyclohexane | 58.1 mmol, 11.87 g | C1(C=CC=C1)C1CC(CC(C1)(C)C)(C)C | C15H24
reactant | acetone | 430 mmol, 30 mL | CC(=O)C | C3H6O
reactant | pyrrolidine | 12 mmol, 1.0 mL | N1CCCC1 | C4H9N
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | water | 200 mL | O | H2O
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 100 mL | CO | CH4O
product | 3,3,5,5-tetramethylcyclohexylfulvene | CC1(CC(CC(C1)(C)C)C1=CC=CC1=C)C | C16H24
